US07714126B2
With a procedure similar to example 16 above, 5-(4-methoxy-phenyl)-2-methyl-2H-pyrazole-3-carboxylic acid {6-[(2-methoxy-ethyl)-methyl-amino]-pyridin-3-yl}-amide was prepared from 5-(4-methoxy-phenyl)-2-methyl-2H-pyrazole-3-carboxylic acid (made by hydrolysis of the corresponding commercially available ethyl ester) and N2-(2-methoxy-ethyl)-N2-methyl-pyridine-2,5-diamine. LCMS calcd for C21H25N5O3 (m/e) 395, obsd 396 (M+H). The NMR spectrum obtained on the sample is compatible with its structure.

reactant | 5-(4-methoxy-phenyl)-2-methyl-2H-pyrazole-3-carboxylic acid | COC1=CC=C(C=C1)C=1C=C(N(N1)C)C(=O)O | C12H12N2O3
reactant | N2-(2-methoxy-ethyl)-N2-methyl-pyridine-2,5-diamine | COCCN(C1=NC=C(C=C1)N)C | C9H15N3O
product | 5-(4-methoxy-phenyl)-2-methyl-2H-pyrazole-3-carboxylic acid {6-[(2-methoxy-ethyl)-methyl-amino]-pyridin-3-yl}-amide | COCCN(C1=CC=C(C=N1)NC(=O)C=1N(N=C(C1)C1=CC=C(C=C1)OC)C)C | C21H25N5O3
